US06359134B1
1-(2-Naphthalenesulfonyl)-4-(4-piperidinomethylbenzoyl)piperazine hydrochloride
To 1-(2-naphthalenesulfonyl)-4-(4-piperidinomethylbenzoyl)piperazine (350 mg) was added 4 N hydrochloric acid in ethyl acetate solution (5 ml) and the precipitated hydrochlorides were filtered to give the title compound (337 mg).

reactant | 1-(2-naphthalenesulfonyl)-4-(4-piperidinomethylbenzoyl)piperazine | 350 mg | C1=C(C=CC2=CC=CC=C12)S(=O)(=O)N1CCN(CC1)C(C1=CC=C(C=C1)CN1CCCCC1)=O | C27H31N3O3S
reactant | hydrochloric acid | 4 N | Cl | ClH
solvent | ethyl acetate | 5 ml | C(C)(=O)OCC | C4H8O2
product | 1-(2-Naphthalenesulfonyl)-4-(4-piperidinomethylbenzoyl)piperazine hydrochloride | 337 mg | Cl.C1=C(C=CC2=CC=CC=C12)S(=O)(=O)N1CCN(CC1)C(C1=CC=C(C=C1)CN1CCCCC1)=O | InChI=1S/C27H31N3O3S.ClH/c31-27(24-10-8-22(9-11-24)21-28-14-4-1-5-15-28)29-16-18-30(19-17-29)34(32,33)26-13-12-23-6-2-3-7-25(23)20-26;/h2-3,6-13,20H,1,4-5,14-19,21H2;1H
